US05223539
N-cyclohexyl-4-(3,4-dimethoxyphenoxy)-N-(1-methylethyl)benzamide
The reaction and workup were carried out in the same manner as described in Example 1 using p-bromobenzoic acid N-isopropyl-N-cyclohexyl amide (2.820 g, 8.70 mmol), 3,4-dimethoxy phenol (1.347 g, 8.74 mmol) and cuprous oxide (647 mg, 4.52 mmol) in 2,4,6-collidine (20 ml). The crude product was chromatographed on silica gel using mixtures of ethyl acetate and hexane as eluents to give the title compound as a crystalline solid that could be recrystallized from ethyl acetate and hexane, m. pt. 106.85° C. (DSC).

reactant | p-bromobenzoic acid N-isopropyl-N-cyclohexyl amide | 8.70 mmol, 2.820 g | C(C)(C)N(C(C1=CC=C(C=C1)Br)=O)C1CCCCC1 | C16H22BrNO
reactant | 3,4-dimethoxy phenol | 8.74 mmol, 1.347 g | COC=1C=C(C=CC1OC)O | C8H10O3
solvent | 2,4,6-collidine | 20 ml | N1=C(C=C(C=C1C)C)C | C8H11N
product | N-cyclohexyl-4-(3,4-dimethoxyphenoxy)-N-(1-methylethyl)benzamide | C1(CCCCC1)N(C(C1=CC=C(C=C1)OC1=CC(=C(C=C1)OC)OC)=O)C(C)C | C24H31NO4
